US07790883B2
(c) 7-chloro-5-[[(2,3-difluorophenyl)methyl]thio]thiazolo[4,5-d]pyrimidin-2-(3H)-one
To a stirred suspension of 7-amino-5-[[(2,3-difluorophenyl)methyl]thio][1,3]oxathiolo[5,4-d]pyrimidin-2-one (5.03 g) and benzyltrimethylammonium chloride (2.58 g) in acetonitrile (25 ml) at 50° C., was first added N,N-diethylaniline (2.46 g) followed by acetonitrile (5 ml), and then phosphorus oxychloride (7.41 g) followed by acetonitrile (5 ml). The reaction mixture was heated to reflux and maintained at this temperature for 36 hours, before cooling to ambient temperature and adding to water (25 ml) at 50° C. with stirring over 30 minutes. An additional acetonitrile (5 ml) rinse of the reaction vessel was added to the drown-out mixture, before heating to 75° C. and slowly cooling to 25° C. at <0.5° C./min. The resulting mixture was held at 25° C. for 30 minutes and then collected by filtration, washing four times with water (25 ml), to afford the title compound as an off-white solid (3.5 g).

reactant | 7-amino-5-[[(2,3-difluorophenyl)methyl]thio][1,3]oxathiolo[5,4-d]pyrimidin-2-one | 5.03 g | NC=1C2=C(N=C(N1)SCC1=C(C(=CC=C1)F)F)OC(S2)=O | C12H7F2N3O2S2
reactant | N,N-diethylaniline | 2.46 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 7.41 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 25 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 2.58 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-chloro-5-[[(2,3-difluorophenyl)methyl]thio]thiazolo[4,5-d]pyrimidin-2-(3H)-one | 3.5 g | ClC=1C2=C(N=C(N1)SCC1=C(C(=CC=C1)F)F)NC(S2)=O | C12H6ClF2N3OS2
